US06211199B1
(1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt
Combine (1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine (0.59 g, 1.37 mmol) and aqueous hydriodic acid (2 mL, 57%) in ethanol (25 mL). Heat to reflux. After 2 hours, cool to ambient temperature, pour the reaction mixture into diethyl ether (450 mL), and cool to about −30° C. to give a solid. Collect the solid by filtration and dry to give the title compound.

reactant | (1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | 1.37 mmol, 0.59 g | C(=O)(OCC)CCCN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C23H34N4O4
reactant | hydriodic acid | 2 mL | I | HI
reactant | diethyl ether | 450 mL | C(C)OCC | C4H10O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (1-(3-carboethoxypropyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | I.C(=O)(OCC)CCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | InChI=1S/C18H26N4O2.HI/c1-2-24-17(23)8-5-13-22-16-7-4-3-6-15(16)21-18(22)20-14-9-11-19-12-10-14;/h3-4,6-7,14,19H,2,5,8-13H2,1H3,(H,20,21);1H
